US07737149B2
6-Bromopyridine-3-carboxylic acid (122 mg, 0.82 mmol, 1.3 eq) was dissolved in DCM (5 mL) and oxalyl chloride (72 μL, 0.82 mmol, 1.3 eq) was added dropwise followed by a drop of DMF. The reaction was stirred for 1 h at ambient temperature, then N,N-diethylethanamine (1 mL, 1.89 mmol, 3 eq) was added followed by tert-butyl 5-amino-3-[2-(3-methoxyphenyl)ethyl]pyrazole-1-carboxylate (200 mg, 0.63 mmol, 1 eq). The reaction was stirred for 2 h, then diluted with DCM and washed with water, brine, dried (MgSO4), filtered and evaporated to give the crude Boc-protected compound as a yellow gum. The gum was dissolved in 2-propanol (5 mL) and a solution of 6M HCl in 2-propanol (4 mL) was added. The solution was stirred at ambient temperature overnight and was then evaporated to dryness and loaded onto a SCX-2 column. The column was washed with methanol and the product eluted with 2N ammonia in methanol to give an orange solid. Trituration with a small volume of methanol gave 6-chloro-N-[5-[2-(3-methoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyridine-3-carboxamide (39 mg, 17%) as a white solid; 1H NMR (400.13 MHz, DMSO) δ 2.89 (4H, s), 3.74 (3H, s), 6.46 (1H, s), 6.75 (1H, m), 6.81 (2H, m), 7.20 (1H, t), 7.65 (1H, d), 8.35 (1H, m), 8.95 (1H, d), 10.99 (1H, s), 12.23 (1H, s) MS m/z 357 (MH+)

reactant | 6-Bromopyridine-3-carboxylic acid | 0.82 mmol, 122 mg, 1.3 eq | BrC1=CC=C(C=N1)C(=O)O | C6H4BrNO2
reactant | oxalyl chloride | 0.82 mmol, 72 μL, 1.3 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diethylethanamine | 1.89 mmol, 1 mL, 3 eq | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 5-amino-3-[2-(3-methoxyphenyl)ethyl]pyrazole-1-carboxylate | 0.63 mmol, 200 mg, 1 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC=C1)OC | C17H23N3O3
reactant | HCl | 6M | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
solvent | 2-propanol | 4 mL | CC(C)O | C3H8O
solvent | methanol | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-chloro-N-[5-[2-(3-methoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyridine-3-carboxamide | 39 mg, 17% | ClC1=CC=C(C=N1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC=C1)OC | C18H17ClN4O2
